US04317817
To 60 mg of (5α,20R)-4-diazo-21-hydroxy-20-methyl-pregnane-3-one in 5 ml of dichloromethane is added 60 mg of pyridinium chlorochromate and the mixture is stirred for 16 hours at room temperature. It is then diluted with ether and filtered through a small column of silica gel in ether. Evaporation of the solvent leaves a solid which is recrystallized from ether to give (5α,20R)-4-diazo-3-oxopregnane-20-carboxaldehyde which melts with decomposition.

reactant | (5α,20R)-4-diazo-21-hydroxy-20-methyl-pregnane-3-one | 60 mg | [N+](=[N-])=C1[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@H](CO)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C22H34N2O2
reactant | pyridinium chlorochromate | 60 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (5α,20R)-4-diazo-3-oxopregnane-20-carboxaldehyde | [N+](=[N-])=C1[C@@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](C)C=O)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C22H32N2O2
